US08003658B2
Preparation of (1S)—N-(1-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-(2-methoxyethoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide
205 mg of (2S)-amino-N-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-(2-methoxyethoxy)-quinazolin-6-yl}-propionamide as a starting material was dissolved in 10 ml of a mixture of THF and water (3:1), and reacted with 0.047 ml of acryloylchloride at room temperature for 1 hour after adding 97 mg of sodium bicarbonate. The reacted solution was extracted with a mixture of chloroform and isopropanol after adding water, washed with saturated saline solution, dried over anhydrous sodium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-ethylacetate:methanol=30:1) to obtain the title compound (55 mg, 24%).

reactant | (2S)-amino-N-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-(2-methoxyethoxy)-quinazolin-6-yl}-propionamide | 205 mg | N[C@H](C(=O)NC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)C | C27H27ClFN5O4
reactant | acryloylchloride | 0.047 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | 97 mg | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (1S)—N-(1-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-(2-methoxyethoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide | 55 mg, 24% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC(=C(C=C12)NC(=O)[C@H](C)NC(C=C)=O)OCCOC | C30H29ClFN5O5
